US08729112B2
2-(Benzyloxycarbonylamino)-4,4,4-trifluoro-2-methylbutanoic acid
A solution of 2-amino-4,4,4-trifluoro-2-methylbutanoic acid (255 mg, 1.4 mmol) and triethylamine (800 ul, 4.2 mmol) in MeOH (3 ml) was cooled to 0° C. and benzyl chloroformate (509 mg, 2.98 mmol) was added dropwise. The solution was warmed to RT overnight and concentrated in vacuo. The residue was suspended in EtOAc and extracted with sat. NaHCO3, the aqueous layers acidified with conc. HCl, and the resulting milkly suspension extracted with EtOAc. The organic layer was dried over Na2SO4 and concentrated in vacuo to afford the title compound. LRMS (ESI/APCI, negative): 304 [M−H+].

reactant | 2-amino-4,4,4-trifluoro-2-methylbutanoic acid | 1.4 mmol, 255 mg | NC(C(=O)O)(CC(F)(F)F)C | C5H8F3NO2
reactant | triethylamine | 4.2 mmol, 800 ul | C(C)N(CC)CC | C6H15N
reactant | benzyl chloroformate | 2.98 mmol, 509 mg | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | MeOH | 3 ml | CO | CH4O
product | 2-(Benzyloxycarbonylamino)-4,4,4-trifluoro-2-methylbutanoic acid | C(C1=CC=CC=C1)OC(=O)NC(C(=O)O)(CC(F)(F)F)C | C13H14F3NO4
